* Extracted by KLayout with SG13G2 LVS runset on : 12/04/2026 18:07

.SUBCKT circuito_completo
M$1 \$10 \$3 \$9 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p PS=3.38u
+ PD=2.18u
M$2 \$1 \$5 \$10 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$3 \$8 \$7 \$9 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p PS=3.38u
+ PD=2.18u
M$4 \$1 \$6 \$8 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$5 \$1 \$5 \$6 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$6 \$1 \$3 \$7 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$7 \$23 \$12 \$22 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$8 \$1 \$2 \$23 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$9 \$21 \$13 \$22 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$10 \$1 \$20 \$21 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$11 \$34 \$24 \$35 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$12 \$1 \$33 \$34 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$13 \$36 \$14 \$35 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$14 \$1 \$4 \$36 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$15 \$1 \$31 \$44 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$16 \$1 \$18 \$44 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$17 \$1 \$2 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$18 \$1 \$12 \$13 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$19 \$1 \$4 \$33 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$20 \$1 \$14 \$24 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$21 \$46 \$26 \$47 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$22 \$1 \$39 \$46 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$23 \$48 \$25 \$47 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p
+ PS=3.38u PD=2.18u
M$24 \$1 \$38 \$48 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$25 \$1 \$3 \$77 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$26 \$77 \$5 \$78 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$27 \$1 \$78 \$2 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$28 \$31 \$11 \$19 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$29 \$1 \$19 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$30 \$1 \$18 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$31 \$19 \$17 \$82 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$32 \$1 \$63 \$64 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$33 \$1 \$18 \$64 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$34 \$1 \$45 \$12 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$35 \$1 \$18 \$12 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$36 \$1 \$65 \$83 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$37 \$1 \$18 \$83 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$38 \$1 \$38 \$39 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$39 \$1 \$25 \$26 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$40 \$1 \$84 \$99 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$41 \$9 \$17 \$96 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$42 \$96 \$11 \$44 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$43 \$1 \$122 \$4 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$44 \$1 \$98 \$14 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$45 \$1 \$18 \$14 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$46 \$1 \$18 \$99 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$47 \$1 \$66 \$25 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$48 \$1 \$18 \$25 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$49 \$1 \$3 \$82 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$50 \$1 \$12 \$121 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$51 \$121 \$2 \$122 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$52 \$63 \$32 \$45 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$53 \$45 \$17 \$125 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$54 \$1 \$96 \$31 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$55 \$1 \$14 \$126 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$56 \$126 \$4 \$127 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$57 \$1 \$127 \$38 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$58 \$1 \$17 \$11 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$59 \$22 \$17 \$142 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$60 \$142 \$32 \$64 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$61 \$65 \$37 \$98 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$62 \$98 \$17 \$145 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$63 \$1 \$147 \$148 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$64 \$1 \$12 \$125 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$65 \$35 \$17 \$143 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$66 \$143 \$37 \$83 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$67 \$1 \$25 \$146 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$68 \$146 \$38 \$147 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$69 \$47 \$17 \$170 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$70 \$170 \$49 \$99 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$71 \$84 \$49 \$66 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$72 \$66 \$17 \$151 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$73 \$1 \$17 \$32 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$74 \$1 \$142 \$63 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$75 \$1 \$17 \$37 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$76 \$1 \$143 \$65 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$77 \$1 \$14 \$145 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$78 \$1 \$25 \$151 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$79 \$1 \$17 \$49 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$80 \$1 \$170 \$84 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$81 \$62 \$5 \$6 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$82 \$62 \$3 \$7 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$83 \$62 \$2 \$20 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$84 \$62 \$12 \$13 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$85 \$62 \$4 \$33 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$86 \$62 \$14 \$24 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$87 \$62 \$6 \$79 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p
+ PS=2.18u PD=1.88u
M$88 \$79 \$3 \$9 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p PS=1.88u
+ PD=3.68u
M$89 \$62 \$31 \$80 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$90 \$80 \$18 \$44 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$91 \$62 \$38 \$39 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$92 \$62 \$25 \$26 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$93 \$79 \$5 \$9 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.27p AD=0.255p PS=1.88u
+ PD=2.18u
M$94 \$62 \$7 \$79 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.27p PS=3.68u
+ PD=1.88u
M$95 \$62 \$19 \$81 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$96 \$81 \$18 \$3 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$97 \$62 \$3 \$78 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$98 \$62 \$5 \$78 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$99 \$62 \$78 \$2 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$100 \$62 \$20 \$123 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p
+ PS=2.18u PD=1.88u
M$101 \$123 \$12 \$22 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p
+ PS=1.88u PD=3.68u
M$102 \$123 \$2 \$22 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.27p AD=0.255p
+ PS=1.88u PD=2.18u
M$103 \$62 \$13 \$123 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.27p
+ PS=3.68u PD=1.88u
M$104 \$62 \$63 \$97 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$105 \$97 \$18 \$64 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$106 \$62 \$65 \$129 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$107 \$129 \$18 \$83 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$108 \$9 \$11 \$96 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$109 \$96 \$17 \$44 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$110 \$31 \$17 \$19 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$111 \$19 \$11 \$82 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$112 \$62 \$45 \$124 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$113 \$124 \$18 \$12 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$114 \$62 \$33 \$128 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p
+ PS=2.18u PD=1.88u
M$115 \$128 \$14 \$35 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p
+ PS=1.88u PD=3.68u
M$116 \$128 \$4 \$35 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.27p AD=0.255p
+ PS=1.88u PD=2.18u
M$117 \$62 \$24 \$128 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.27p
+ PS=3.68u PD=1.88u
M$118 \$62 \$84 \$150 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$119 \$150 \$18 \$99 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$120 \$62 \$17 \$11 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$121 \$62 \$96 \$31 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$122 \$62 \$3 \$82 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$123 \$62 \$12 \$122 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$124 \$62 \$2 \$122 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$125 \$62 \$122 \$4 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$126 \$142 \$17 \$64 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$127 \$63 \$17 \$45 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$128 \$45 \$32 \$125 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$129 \$62 \$14 \$127 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$130 \$62 \$4 \$127 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$131 \$62 \$127 \$38 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$132 \$62 \$98 \$144 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$133 \$144 \$18 \$14 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$134 \$62 \$39 \$149 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p
+ PS=2.18u PD=1.88u
M$135 \$149 \$25 \$47 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p
+ PS=1.88u PD=3.68u
M$136 \$149 \$38 \$47 \$62 sg13_lv_pmos L=0.15u W=0.75u AS=0.27p AD=0.255p
+ PS=1.88u PD=2.18u
M$137 \$62 \$26 \$149 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.27p
+ PS=3.68u PD=1.88u
M$138 \$62 \$66 \$171 \$62 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$139 \$171 \$18 \$25 \$62 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$140 \$62 \$17 \$32 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$141 \$22 \$32 \$142 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$142 \$62 \$142 \$63 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$143 \$62 \$12 \$125 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$144 \$62 \$17 \$37 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$145 \$35 \$37 \$143 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$146 \$62 \$143 \$65 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$147 \$143 \$17 \$83 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$148 \$65 \$17 \$98 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$149 \$98 \$37 \$145 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$150 \$62 \$14 \$145 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$151 \$62 \$25 \$147 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$152 \$62 \$38 \$147 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$153 \$62 \$147 \$148 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$154 \$47 \$49 \$170 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$155 \$62 \$170 \$84 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$156 \$170 \$17 \$99 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$157 \$84 \$17 \$66 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$158 \$66 \$49 \$151 \$62 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p
+ PS=3.68u PD=3.68u
M$159 \$62 \$25 \$151 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$160 \$62 \$17 \$49 \$62 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS circuito_completo
